US09255090B2
To a solution of tert-butylamine (1.74 mL, 16.4 mmol, 1.50 eq.) in toluene (54 mL), bromine (0.47 mL, 9.2 mmol, 0.84 eq.) was added dropwise at −30° C. The mixture was stirred at −30° C. for 1 hour then cooled down to −78° C. and a solution of methyl 2-(2-hydroxyphenyl)acetate (1.82 g, 11.0 mmol, 1.00 eq.) in DCM (10 mL) was slowly added. The resulting mixture was stirred at r.t. for 18 hours. Water was added and the layers were separated. The aq. phase was extracted with DCM (2×). The comb. org. layers were dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by prep. HPLC (column: Waters XBridge, 30×75 mm, 10 um, UV/MS, acidic conditions) and evaporated to give (3-bromo-2-hydroxy-phenyl)-acetic acid methyl ester as a pale yellow oil that solidified upon standing.

reactant | tert-butylamine | 16.4 mmol, 1.74 mL, 1.50 eq. | C(C)(C)(C)N | C4H11N
reactant | bromine | 9.2 mmol, 0.47 mL, 0.84 eq. | BrBr | Br2
reactant | methyl 2-(2-hydroxyphenyl)acetate | 11.0 mmol, 1.82 g, 1.00 eq. | OC1=C(C=CC=C1)CC(=O)OC | C9H10O3
reactant | Water | O | H2O
solvent | toluene | 54 mL | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (3-bromo-2-hydroxy-phenyl)-acetic acid methyl ester | COC(CC1=C(C(=CC=C1)Br)O)=O | C9H9BrO3
